US04172130
L-Phenylalanine-amide hydrobromide
6.55 g (22 mmoles) of Z--Phe--NH2, prepared as described in Example 1, Step 1, are dissolved in 13 ml of acetic acid, and 30 ml of 5 n hydrogen bromide in acetic acid are added to the solution. After 5 minutes of stirring a thick precipitate separates. The suspension is allowed to stand for one hour, thereafter it is diluted with dry ether and filtered. The crude product is dissolved in 240 ml of ethanol, the solution is decolorized, and the product is precipitated with 740 ml of ether. 4.90 g (91 %) of H--Phe--NH2.HBr are obtained; the white, crystalline substance is chromatographically uniform. (Two spots appear on the thin layer chromatogram: one of them belongs to the product and the other to hydrogen bromide). M.P.: 249-250° C., Rf8 : 0.50; Rf8,HBr: 0.35.

reactant | Z--Phe--NH2 | 22 mmoles, 6.55 g | C1=CC=C(C=C1)C[C@@H](C(=O)N)NC(=O)OCC2=CC=CC=C2 | C17H18N2O3
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 13 ml | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | L-Phenylalanine-amide hydrobromide | Br.N[C@@H](CC1=CC=CC=C1)C(=O)N | InChI=1S/C9H12N2O.BrH/c10-8(9(11)12)6-7-4-2-1-3-5-7;/h1-5,8H,6,10H2,(H2,11,12);1H/t8-;/m0./s1
